US07705004B2
A mixture of 2-chloro-N-(3-methyl-1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (260 mg, 0.574 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (251 mg, 1.15 mmol) and trimethylsilyl chloride (TMSCl) (0.150 mL, 1.19 mmol) in n-BuOH (5 mL) was heated at 116° C. for 48 h. It was then purified by HPLC to give 1-(4-(4-(4-(3-methyl-1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (30 mg).

reactant | 2-chloro-N-(3-methyl-1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.574 mmol, 260 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C(=NNC1=C2)C | C21H17ClN6O2S
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 1.15 mmol, 251 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | trimethylsilyl chloride | 1.19 mmol, 0.150 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | 1-(4-(4-(4-(3-methyl-1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 30 mg | CC1=NNC2=CC(=CC=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C33H33N9O3S
